US07645752B2
Step 3: Preparation of 5-bromo-3-(phenylsulfonyl)-1H-indole:
A stirred solution of 4-bromo-2-[(phenylsulfonyl)methyl]aniline (3.26 g, 10.00 mmol, p-toluenesulfonic acid monohydrate (0.20 g), triethyl orthoformate (8.32 mL, 50 mmol) and 1,2-dichloroethane (70 mL) is heated at reflux under nitrogen for 5 hours and then at room temperature for 16 hours. The reddish reaction is concentrated in vacuo to a red oil. The resulting crude intermediate iminoether is stirred in dry THF (50 mL) and treated with 1.0M KOtBu in THF (13 mL, 13 mmol). After 5 min, a tan precipitate is evident. After 1 hour, the reaction is treated with water (30 mL) and NH4Cl (0.60 g), extracted with CH2Cl2 (150 mL), dried (MgSO4), filtered and concentrated in vacuo to a light orange solid. Trituration with ethyl acetate and hexanes affords the title compound as a light orange solid (2.78 g, 72%). Mp: 176-178° C. MS (ES−): 334 (M−H).

reactant | 4-bromo-2-[(phenylsulfonyl)methyl]aniline | BrC1=CC(=C(N)C=C1)CS(=O)(=O)C1=CC=CC=C1 | C13H12BrNO2S
reactant | p-toluenesulfonic acid monohydrate | 0.20 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | triethyl orthoformate | 50 mmol, 8.32 mL | C(OCC)(OCC)OCC | C7H16O3
reactant | KOtBu | 1.0M | CC(C)(C)[O-].[K+]
reactant | THF | 13 mmol, 13 mL | C1CCOC1 | C4H8O
reactant | NH4Cl | 0.60 g | [NH4+].[Cl-]
solvent | water | 30 mL | O | H2O
solvent | 1,2-dichloroethane | 70 mL | ClCCCl | C2H4Cl2
product | 5-bromo-3-(phenylsulfonyl)-1H-indole | 2.78 g, 72% | BrC=1C=C2C(=CNC2=CC1)S(=O)(=O)C1=CC=CC=C1 | C14H10BrNO2S
